US06541484B2
4-Amino-6,7-dihydro-6-oxo-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.68 g, 2.28 mmol) was heated at reflux in sodium hydroxide solution (12 ml of a 15 wt. % solution in water). After 6 h, the mixture was allowed to cool to room temperature and was then transferred to a fridge and kept there for 19 h. The white precipitate was filtered off and the filtrate set aside. The solid was dissolved in water and acidified to pH 5 by dropwise addition of concentrated hydrochloric acid. The product was extracted into ethyl acetate (×2) and the combined organic layers washed with brine before being dried (MgSO4) and concentrated. 4-Amino-1,7-dihydro-1-phenylpyrazolo[3,4-b]pyridin-6-one (324 mg, 63%) was obtained as a white solid. The filtrate which had been set aside was acidified to pH 5 and extracted with ethyl acetate (×2). The combined organic extracts were washed with saturated aqueous sodium hydrogencarbonate solution and then brine before being dried (MgSO4) and concentrated. This afforded a second crop of the product (145 mg, total yield 91%), m.p. 223-225° C. δH (400 MHz; DMSO) 5.58 (1H, s), 6.76 (2H, br s), 7.23-7.27 (1H, m), 7.46-7.50 (2H, m), 8.16 (1H, s), 8.21-8.24 (2H; m), 11.16 (1H, br s); m/z (ES+) 227 (M+H+).

reactant | 4-Amino-6,7-dihydro-6-oxo-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 2.28 mmol, 0.68 g | C(C)OC(=O)C1=C(C2=C(NC1=O)N(N=C2)C2=CC=CC=C2)N | C15H14N4O3
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Amino-1,7-dihydro-1-phenylpyrazolo[3,4-b]pyridin-6-one | 324 mg, 63% | NC=1C2=C(NC(C1)=O)N(N=C2)C2=CC=CC=C2 | C12H10N4O
